US04022900
7-(3,4,5-Trimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline (M-59)
7-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline (2 g), prepared from 7-nitro-2-methyl-isoquinolinium p-toluenesulfonate as described for the 5-nitro isomer in Example 4 was dissolved in dry benzene (50 ml) and 0.5 g of dry potassium bicarbonate was added. A 0.1 mole excess of 3,4,5-trimethoxybenzoyl chloride was dissolved in benzene (50 ml) and this solution was added to the solution of the tetrahydroisoquinoline. A brown precipitate formed immediately and the mixture was refluxed for 3 hours. The benzene was removed in vacuo leaving a tan residue which was suspended in 10% sodium carbonate solution to remove excess acid chloride and stirred for 1 hour. The insoluble residue was a brown oil which was extracted from the aqueous sodium carbonate with chloroform. The chloroform was dried over anhydrous magnesium sulfate and the chloroform was distilled off to leave a viscous red oil which crystallized to a white powder (2.7 g) when washed with cold ether. The white solid was recrystallized from ethanol-ether to yield the desired product as a white powder, m.p. 157.5°-158° C.

reactant | 7-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | 2 g | NC1=CC=C2CCN(CC2=C1)C | C10H14N2
reactant | 7-nitro-2-methyl-isoquinolinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[N+](=O)([O-])C1=CC=C2C=C[N+](=CC2=C1)C
reactant | potassium bicarbonate | 0.5 g | C([O-])(O)=O.[K+]
reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | tetrahydroisoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 7-(3,4,5-Trimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C(=O)NC2=CC=C3CCN(CC3=C2)C)C=C(C1OC)OC | C20H24N2O4
